US06051716
Step 1: 1-(3-Fluorophenyl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane
A solution of freshly distilled diisopropylamine (22.9 mL) in dry tetrahydrofuran (175 mL) at -78° C. under N2 is treated with n-butyllithium (1.6M in hexanes, 109 mL) dropwise over 15 minutes, and the resulting mixture is stirred at -78° C. for 45 minutes and is then added over ten minutes via cannula to a solution of 3-fluoroaniline (8.00 mL) in dry tetrahydrofuran (166 mL) at -78° C. under N2. The resulting reaction mixture is stirred at -78° C. for 50 minutes and is then treated with a solution of 1,1,4,4-tetramethyl-1,4-dichlorodisilethylene (18.3 g) in dry tetrahydrofuran (85 mL). The mixture is allowed to slowly warm to ambient temperature over four hours with stirring and is then washed with water (2×200 mL) and saline (100 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound, NMR (CDCl3, 400 MHz) 7.12, 6.65, 6.58, 0.86, 0.24 δ.

reactant | diisopropylamine | 22.9 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M, 109 mL | C(CCC)[Li]
reactant | 3-fluoroaniline | 8.00 mL | FC=1C=C(N)C=CC1 | C6H6FN
reactant | 1,1,4,4-tetramethyl-1,4-dichlorodisilethylene | 18.3 g | C[Si](C)(CC[Si](C)(C)Cl)Cl | C6H16Cl2Si2
solvent | tetrahydrofuran | 175 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 166 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 85 mL | O1CCCC1 | C4H8O
product | 1-(3-Fluorophenyl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane | FC=1C=C(C=CC1)N1[Si](CC[Si]1(C)C)(C)C | C12H20FNSi2
